US08202873B2
Dissolve 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (0.200 g, 0.604 mmol) in acetonitrile (10 mL). Add potassium carbonate (0.334 g, 2.415 mmol), potassium iodide (0.005 g, 0.030 mmol), and 4-(3-bromo-propyl)-1-methyl-1H-pyrazole (0.184 g, 0.906 mmol). Heat reaction at reflux for 14 hr. under nitrogen. Cool to room temperature and partition between water and ethyl acetate. Separate and extract aqueous with ethyl acetate. Combine organic portions, dry over sodium sulfate, filter, and concentrate in vacuo. Purify residue by flash chromatography eluting with chloroform:methanol 19:1 to afford 3′-(4-fluoro-phenyl)-4-[3-(1-methyl-1H-pyrazol-4-yl)-propyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.194 g). Dissolve in acetonitrile (1 mL) and add aqueous 1N HCl (0.561 mL, 0.561 mmol). Stir for 1 h at room temperature. Remove organics and lyophilize to afford the title compound (0.189 g, 75% yield). MS (m/z)=381[M+H]+.

reactant | 3′-(4-fluoro-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 0.604 mmol, 0.200 g | Cl.Cl.FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCNCC1
reactant | potassium carbonate | 2.415 mmol, 0.334 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-bromo-propyl)-1-methyl-1H-pyrazole | 0.906 mmol, 0.184 g | BrCCCC=1C=NN(C1)C | C7H11BrN2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | potassium iodide | 0.030 mmol, 0.005 g | [I-].[K+]
product | 3′-(4-fluoro-phenyl)-4-[3-(1-methyl-1H-pyrazol-4-yl)-propyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.194 g | FC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CCCC=1C=NN(C1)C | C21H25FN6
